US05834434
N-BOC-S-trityl-cysteine-4-amino-2-(3,5-dimethylphenyl)benzoyl methionine methyl ester
4-amino-2-(3,5-dimethylphenyl)benzoyl methionine methyl ester (0.10 g, 0.26 mmol) was dissolved into dry CH2Cl2 (1.4 ml) and it was allowed to stand. In another flask, N-BOC-S-trityl-Cys (0.12 g, 0.26 mmol) was dissolved into THF (4.4 ml) and was reacted with IBCF (0.03 ml) and Et3N (0.04 ml) as described above. The product was worked up as described for N-BOC-S-trityl-cysteine-4-aminobenzoyl methionine methyl ester in Example 1 and chromatographed on silica gel using a 1:1 hexanes and ethyl acetate elution mixture to give 0.12 g (56.0%) of pure material. 1H NMR (CDCl3) 1.33 (9 H, ), 1. 61-1.68 (1 H, m), 1.73-1.91 (4 H, m) , 1.96 (2 H, t, J=7.6 Hz) , 2.24 (6 H, s), 2.57-2.64 (2 H, m), 3.57 (3 H, s), 4.00 (1 H, br s), 4.54-4.58 (1 H, m), 5.84 (1 H, d, J=7.8 Hz), 5.97 (1 H, br d), 6.90 (1 H, s), 6.92 (2 H, s), 7.18-7.22 (9 H, m), 7.27-7.40 (7 H, m), 7.55 (1 H, m), 7.61 (1 H, m), 8.58 (1 H, br s); 13C NMR (CDCl3) 15.11, 21.20, 27.79, 29.25, 31.28, 51.70, 52.28, 54.08, 60 .32, 71.45, 80.75, 118.01, 120.80, 126.38, 126.82, 127.98, 129.41, 129.87, 130.22, 138.11, 139.18, 139.79, 141.06, 144.17, 168.38, 169.04, 171.82.

reactant | 4-amino-2-(3,5-dimethylphenyl)benzoyl methionine methyl ester | 0.26 mmol, 0.10 g | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC(=CC(=C1)C)C)=O)CCSC)=O | C21H26N2O3S
reactant | CH2Cl2 | 1.4 ml | C(Cl)Cl | CH2Cl2
reactant | Et3N | 0.04 ml | CCN(CC)CC | C6H15N
reactant | N-BOC-S-trityl-cysteine 4-aminobenzoyl methionine methyl ester | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCSC)=O
solvent | THF | 4.4 ml | C1CCOC1 | C4H8O
product | N-BOC-S-trityl-cysteine 4-amino-2-(3,5-dimethylphenyl)benzoyl methionine methyl ester | 0.12 g, 56.0% | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC(=CC(=C1)C)C)=O)CCSC)=O | InChI=1S/C27H29NO4S.C21H26N2O3S/c1-26(2,3)32-25(31)28-23(24(29)30)19-33-27(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-13-9-14(2)11-15(10-13)18-12-16(22)5-6-17(18)20(24)23-19(7-8-27-4)21(25)26-3/h4-18,23H,19H2,1-3H3,(H,28,31)(H,29,30);5-6,9-12,19H,7-8,22H2,1-4H3,(H,23,24)/t23-;19-/m00/s1
